US07872009B2
Step 3: N-((2S,3R)-4-((S)-6-Ethylchroman-4-ylamino)-3-hydroxy-1-phenylbutan-2-yl)-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxamide
The title compound was prepared using a procedure analogous to that described in Example 35, wherein (±)-lithium 3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate was coupled with (2R,3S)-3-amino-1-((S)-6-ethylchroman-4-ylamino)-4-phenylbutan-2-ol to afford the title compound (a 1:1 mixture of epimers at the benzooxazine stereocenter) as a white solid. MS m/z: 502 (M+1).

reactant | (±)-lithium 3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate | O1C2=C(NCC1C(=O)[O-])C=CC=C2.[Li+]
reactant | (2R,3S)-3-amino-1-((S)-6-ethylchroman-4-ylamino)-4-phenylbutan-2-ol | N[C@H]([C@@H](CN[C@H]1CCOC2=CC=C(C=C12)CC)O)CC1=CC=CC=C1 | C21H28N2O2
product | N-((2S,3R)-4-((S)-6-Ethylchroman-4-ylamino)-3-hydroxy-1-phenylbutan-2-yl)-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxamide | C(C)C=1C=C2[C@H](CCOC2=CC1)NC[C@H]([C@H](CC1=CC=CC=C1)NC(=O)C1CNC2=C(O1)C=CC=C2)O | C30H35N3O4
